US05162305
Preparation of Boc-β-Ala-Asn-Leu-OEt
Using 5.60 g of Boc-Asn-Leu-OEt and 5.60 g of Boc-β-Ala-OSu, the same procedure as in Reference Example 35 was repeated to obtain 4.71 g (yield: 70.6%) of the above objective compound having a melting point of 148°-153° C.

reactant | Boc-Asn-Leu-OEt | 5.60 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C17H31N3O6
reactant | Boc-β-Ala-OSu | 5.60 g | N(CCC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C12H18N2O6
product | Boc-β-Ala-Asn-Leu-OEt | 4.71 g, yield: 70.6% | N(CCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C20H36N4O7
